US07576090B2
Benzoyl chloride (1.17 mL, 10.0 mmol) was added to a suspension of 2-amino-6-nitrobenzoxazole (1.50 g, 8.37 mmol) in pyrdine (10 mL). After stirring for 24 h at 80° C., the solution was poured into water (250 mL). The mixture was stirred overnight at r.t. and the resulting precipitate was separated by filtration. N-(6-Nitrobenzoxazol-2-yl)benzamide (2.08 g, 7.32 mmol, 88%) was thus obtained as a yellow solid. LC/ESI-MS: /z =284 [M+H]+; m/z=282 [M−H]−; Rt=3.13 min.

reactant | Benzoyl chloride | 10.0 mmol, 1.17 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-amino-6-nitrobenzoxazole | 8.37 mmol, 1.50 g | NC=1OC2=C(N1)C=CC(=C2)[N+](=O)[O-] | C7H5N3O3
solvent | water | 250 mL | O | H2O
product | N-(6-Nitrobenzoxazol-2-yl)benzamide | 7.32 mmol, 2.08 g, 88% | [N+](=O)([O-])C1=CC2=C(N=C(O2)NC(C2=CC=CC=C2)=O)C=C1 | C14H9N3O4
